data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2503,2782,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([O:13][CH3:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1.[CH3:23][NH:24][C:25](=[O:26])[c:27]1[nH+:28][c-:29]([C:30]#[N:31])[c:32](=[O:33])[o:34]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([O:13][CH3:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1)[C:27]1([C:25]([NH:24][CH3:23])=[O:26])[NH:28][C:29]2([C:30]#[N:31])[C:32](=[O:33])[O:34]1,water,298.15,25.655106151460128,-10.186765685978015
4843,5525,[CH3:10][O:11][C:12](=[O:13])[C-:14]([N+:15]#[C:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[C:23](=[O:24])[O:25][CH3:26].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([C:23](=[O:24])[O:25][CH3:26])[N:15]=[C:16]1[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,19.61089563055287,-19.425433390237785
2384,2649,[CH3:19][O:20][C:21](=[O:22])[C:23]([C:24](=[O:25])[O:26][CH3:27])=[N+:28]([CH3:29])[CH-:30][C:31]([CH3:32])=[O:33].[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][CH:12]([C:13]#[N:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([CH:12]([C:13]#[N:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:23]([C:21]([O:20][CH3:19])=[O:22])([C:24](=[O:25])[O:26][CH3:27])[N:28]([CH3:29])[CH:30]2[C:31]([CH3:32])=[O:33],water,298.15,17.29835109757224,-51.16214114939896
3473,3954,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][O:6][C:7](=[O:8])[N:9]=[N+:10]([CH3:11])[N-:12][c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[N:12]([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[N:10]([CH3:11])[N:9]1[C:7]([O:6][CH3:5])=[O:8],water,298.15,29.84479142464769,-12.593240605760911
1819,2016,[CH3:16][NH:17][C:18](=[O:19])[C:20](=[O+:21][C-:22]([CH3:23])[CH3:24])[C:25](=[O:26])[NH:27][CH3:28].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([F:8])([F:9])[F:10])([CH:11]3[CH:12]=[CH:13][CH:14]1[O:15]3)[C:22]([CH3:23])([CH3:24])[O:21][C:20]2([C:18]([NH:17][CH3:16])=[O:19])[C:25](=[O:26])[NH:27][CH3:28],water,298.15,15.142536334855292,-38.57448944339247
3414,3884,[CH3:10][NH:11][C:12](=[O:13])[C:14]#[N+:15][CH-:16][C:17]#[N:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[CH:16]([C:17]#[N:18])[N:15]=[C:14]1[C:12]([NH:11][CH3:10])=[O:13],water,298.15,17.89301515440719,-42.35727755490151
4612,5258,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C-:15]([CH3:16])[N+:17]([CH3:18])=[C:19]([C:20]#[N:21])[C:22]([CH3:23])=[O:24]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([O:12][CH3:11])=[O:14])([CH3:16])[N:17]([CH3:18])[C:19]2([C:20]#[N:21])[C:22]([CH3:23])=[O:24],water,298.15,34.380744346622826,-14.083418075572958
803,870,[CH3:15][C:16](=[O:17])[C:18]#[N+:19][N-:20][C:21]([CH3:22])=[O:23].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([F:7])([F:8])[F:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([C:6]([F:7])([F:8])[F:9])([CH:10]3[CH:11]=[CH:12][CH:13]1[O:14]3)[N:20]([C:21]([CH3:22])=[O:23])[N:19]=[C:18]2[C:16]([CH3:15])=[O:17],water,298.15,15.349091160360384,-50.28400504438596
2147,2382,[CH3:13][C:14](=[O:15])[C:16](=[NH+:17][C-:18]([C:19]#[N:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[C:27]([CH3:28])=[O:29].[F:1][C:2]1([F:3])[C:4]#[C:5][C:6]([Cl:7])([Cl:8])[CH2:9][CH2:10][CH2:11][CH2:12]1>>[F:1][C:2]1([F:3])[C:4]2=[C:5]([C:6]([Cl:7])([Cl:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[C:16]([C:14]([CH3:13])=[O:15])([C:27]([CH3:28])=[O:29])[NH:17][C:18]2([C:19]#[N:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,17.35736324265833,-29.175005093108823
3310,3749,[CH3:10][CH-:11][NH+:12]=[C:13]([C:14]#[N:15])[C:16]#[N:17].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:13]([C:14]#[N:15])([C:16]#[N:17])[NH:12][CH:11]1[CH3:10],water,298.15,24.65691051944888,-3.927262540754164
4509,5142,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C-:15]([NH+:16]=[C:17]([C:18]#[N:19])[C:20]#[N:21])[C:22]([CH3:23])=[O:24]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:17]([C:18]#[N:19])([C:20]#[N:21])[NH:16][C:15]2([C:13]([O:12][CH3:11])=[O:14])[C:22]([CH3:23])=[O:24],water,298.15,17.93042510844781,-16.003149931343064
